US07776869B2
Step 4: N-cyclopropyl-3-iodo-4-methylbenzamide
To 3-iodo-4-methylbenzoic acid (3.5 g, 13 mmol) was added thionyl chloride (10 mL) before heating the mixture to reflux for 1.5 h. The reaction mixture was concentrated in vacuo, and dissolved in DCM (50 mL) and Hünigs base (4.6 mL, 27 mmol). After the addition of cyclopropylamine (1.87 mL, 27 mmol) at −78° C., the reaction mixture was stirred at ambient Temp. for about 3 h. The mixture was diluted with 100 mL DCM, washed with 20 mL saturated, aqueous NaHCO3 and 20 mL 3 N HCl, and dried over anhydrous Na2SO4. The solid obtained was suspended in EtOAc and filtered to give the title compound. MS (ES+): 302 (M+H)+.

reactant | 3-iodo-4-methylbenzoic acid | 13 mmol, 3.5 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Hünigs base | 27 mmol, 4.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 27 mmol, 1.87 mL | C1(CC1)N | C3H7N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-cyclopropyl-3-iodo-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)I)=O | C11H12INO
